US07538123B2
7.78 g of potassium t-butoxide was dissolved in 66.3 ml of t-butanol and 150 ml of toluene. Thereafter, 5.00 g of 5-methoxyindanone dissolved in 170 ml of toluene was added dropwise to the reaction solution at room temperature. Approximately 10 minutes later, 4.79 ml of methyl iodide was added to the reaction solution. After completion of the reaction, a saturated ammonium chloride aqueous solution and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The organic layer was then dried over anhydrous magnesium sulfate. After the organic layer had been filtered through celite, the drying agent was removed by filtration. Thereafter, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 2.08 g of 5-methoxy-2,2-dimethylindanone. The obtained product was dissolved in 9 ml of methanesulfonic acid. Then, 2.45 g of methionine was added to the reaction solution, and the obtained mixture was heated to 110° C. After completion of the reaction, a saturated sodium chloride aqueous solution and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The organic layer was then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.41 g of the subject compound.

reactant | potassium t-butoxide | 7.78 g | CC(C)([O-])C.[K+]
reactant | 5-methoxyindanone | 5.00 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | methyl iodide | 4.79 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | t-butanol | 66.3 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-2,2-dimethylindanone | 2.08 g | COC=1C=C2CC(C(C2=CC1)=O)(C)C | C12H14O2
